US07253318B2
In analogy to the procedure described in Example 1c), the (4-benzyloxy-phenoxy)-acetic acid was reacted with methylamine using 1,1′-carbonyl-diimidazole as the condensation reagent. 2-(4-benzyloxy-phenoxy)-N-methyl-acetamide was obtained as white crystals; MS: m/e=272 (M+H)+.

reactant | (4-benzyloxy-phenoxy)-acetic acid | C(C1=CC=CC=C1)OC1=CC=C(OCC(=O)O)C=C1 | C15H14O4
reactant | methylamine | CN | CH5N
reactant | 1,1′-carbonyl-diimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 2-(4-benzyloxy-phenoxy)-N-methyl-acetamide | C(C1=CC=CC=C1)OC1=CC=C(OCC(=O)NC)C=C1 | C16H17NO3
